US04772600
2-(4-Methoxyphenyl)-N,N-dimethyl-3H-imidazo[4,5-b]pyridine-3-acetamide
Under nitrogen bubbling, a mixture of 2-(4-methoxyphenyl-3H-imidazo[4,5-b]pyridine-3-acetic acid (4.2 g, 0.0148 mole) and 1,1'-carbonyldiimidazole (2.43 g, 0.015 mole) in 120 ml of tetrahydrofuran was stirred at room temperature for 31/2 hrs. A solution of dimethylamine in tetrahydrofuran (60 ml of 0.5M) was added, and the reaction was allowed to stir at room temperature overnight.

reactant | 4-methoxyphenyl-3H-imidazo[4,5-b]pyridine-3-acetic acid | 0.0148 mole, 4.2 g | COC1=CC=C(C=C1)C1=NC=2C(=NC=CC2)N1CC(=O)O | C15H13N3O3
reactant | 1,1'-carbonyldiimidazole | 0.015 mole, 2.43 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | dimethylamine | CNC | C2H7N
solvent | tetrahydrofuran | 120 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 0.5M, 60 ml | O1CCCC1 | C4H8O
product | 2-(4-Methoxyphenyl)-N,N-dimethyl-3H-imidazo[4,5-b]pyridine-3-acetamide | COC1=CC=C(C=C1)C1=NC=2C(=NC=CC2)N1CC(=O)N(C)C | C17H18N4O2
